US05223498
A mixture of 1-(2-piperidinophenyl)thiourea (10.1 g), methyl iodide (5.35 g) and methanol (50 ml) was heated at 50°-55° C. for 2 hours. The solvent was removed by evaporation and the residue dried under vacuum (5 mm/Hg) to give 2-methyl-1-(2-piperidinophenyl)-2-thiopseudourea hydroiodide (m.p. 160°-162° C.).

reactant | 1-(2-piperidinophenyl)thiourea | 10.1 g | N1(CCCCC1)C1=C(C=CC=C1)NC(=S)N | C12H17N3S
reactant | methyl iodide | 5.35 g | CI | CH3I
solvent | methanol | 50 ml | CO | CH4O
product | 2-methyl-1-(2-piperidinophenyl)-2-thiopseudourea hydroiodide | I.CSC(NC1=C(C=CC=C1)N1CCCCC1)=N | InChI=1S/C13H19N3S.HI/c1-17-13(14)15-11-7-3-4-8-12(11)16-9-5-2-6-10-16;/h3-4,7-8H,2,5-6,9-10H2,1H3,(H2,14,15);1H
